US07579351B2
(S)-2-Cyclopropylmethyl-4-hydroxymethyl-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 12, from (S)-2-cyclopropylmethyl-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one and tetra-n-butylammoniumfluoride, to give the desired product as a colorless oil (74%).

reactant | (S)-2-cyclopropylmethyl-4-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | C1(CC1)CN1C(C=2N(C=3C=CC(=CC3C2)OC2CCN(CC2)C(C)C)[C@@H](C1)C(O[SiH](C)C)C(C(C)C)(C)C)=O | C32H51N3O3Si
reactant | tetra-n-butylammoniumfluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (S)-2-Cyclopropylmethyl-4-hydroxymethyl-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 74% | C1(CC1)CN1C(C=2N(C=3C=CC(=CC3C2)OC2CCN(CC2)C(C)C)[C@@H](C1)CO)=O | C24H33N3O3
